US08710236B2
To a stirring solution of bromo-(4-tert-butyl-phenyl)-acetic acid (1.2 g, 4.43 mmol) in toluene (20 mL) was added SOCl2 (0.8 mL, 11.1 mmol). The mixture was stirred at 90° C. for 1 hr and concentrated under reduced pressure. This crude product was dissolved into toluene (20 ml), and 4-cyclohexylmethoxy-phenylamine (0.91 g, 4.43 mmol) and ethyl-diisopropyl-amine (0.85 mL, 4.87 mmol) were added at room temperature. The reaction mixture was stirred at room temperature for 1 hr. The reaction mixture was quenched with water and diluted with EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel, eluting with ethyl acetate-hexanes (3:7) to afford 2-bromo-2-(4-tert-butyl-phenyl)-N-(4-cyclohexylmethoxy-phenyl)-acetamide as a brown oil (1.2 g, 59%): 1H NMR (300 MHz, DMSO-d6): δ 10.35 (s, 1H) 7.49 (m, 6H), 6.87 (d, J=9.3 Hz, 2H), 5.74 (s, 1H), 3.75 (d, J=6.3 Hz, 2H), 1.69 (m, 6H), 1.27 (m, 12H), 1.09 (m, 2H).

reactant | bromo-(4-tert-butyl-phenyl)-acetic acid | 4.43 mmol, 1.2 g | BrC(C(=O)O)C1=CC=C(C=C1)C(C)(C)C | C12H15BrO2
reactant | SOCl2 | 11.1 mmol, 0.8 mL | O=S(Cl)Cl | Cl2OS
reactant | 4-cyclohexylmethoxy-phenylamine | 4.43 mmol, 0.91 g | C1(CCCCC1)COC1=CC=C(C=C1)N | C13H19NO
reactant | ethyl-diisopropyl-amine | 4.87 mmol, 0.85 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-bromo-2-(4-tert-butyl-phenyl)-N-(4-cyclohexylmethoxy-phenyl)-acetamide | 1.2 g, 59% | BrC(C(=O)NC1=CC=C(C=C1)OCC1CCCCC1)C1=CC=C(C=C1)C(C)(C)C | C25H32BrNO2
